US05654307
A mixture of 4-methylthiopyrido[2,3-d]pyrimidine (157 mg, 0.89 mmol, and 3-bromoaniline (1 mL) is heated to 100° C. for 2 h. On cooling a precipitate forms which is filtered then washed with EtOH and air dried to yield 4-(3-bromoanilino)pyrido[2,3-d]pyrimidine (55.5 mg, 20%. 1H NMR (DMSO) δ 10.13 (lit, s), 9.11 (1H, dd, J=1.7, 4.3 Hz), 9.01 (1H, dd, J=1.7, 8.2 Hz), 8.81 (1H, s), 8.22 (1H, s), 7.90 (1H, d, J=7.7 Hz), 7.71 (1H, dd, J=4.3, 8.0 Hz), 7.40 (2H, m).

reactant | 4-methylthiopyrido[2,3-d]pyrimidine | CSC=1C2=C(N=CN1)N=CC=C2 | C8H7N3S
reactant | 3-bromoaniline | 1 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 4-(3-bromoanilino)pyrido[2,3-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)N=CC=C3)C=CC1 | C13H9BrN4
